US05354781
N,N-Dicyclohexyl-3-(3-chloro-4-cyclohexylphenyl)-prop-2-ynylamine hydrochloride. CM 31740.
This compound is prepared, following the procedure described in Example I, by reacting dicyclohexylamine and paraformaldehyde with 3-chloro-4-cyclohexyl-1 -ethynylbenzene.

reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | paraformaldehyde | C=O | CH2O
reactant | 3-chloro-4-cyclohexyl-1 -ethynylbenzene | ClC=1C=C(C=CC1C1CCCCC1)C#C | C14H15Cl
product | N,N-Dicyclohexyl-3-(3-chloro-4-cyclohexylphenyl)-prop-2-ynylamine hydrochloride | Cl.C1(CCCCC1)N(C1CCCCC1)CC#CC1=CC(=C(C=C1)C1CCCCC1)Cl | InChI=1S/C27H38ClN.ClH/c28-27-21-22(18-19-26(27)23-12-4-1-5-13-23)11-10-20-29(24-14-6-2-7-15-24)25-16-8-3-9-17-25;/h18-19,21,23-25H,1-9,12-17,20H2;1H
